US09145392B2
Step 3: tert-butyl 4-(4-bromo-1-(2-hydroxyethyl)-1H-imidazol-2-yl)piperidine-1-carboxylate
A suspension of tert-butyl 4-(4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate (36.0 g, 109.02 mmol) in dry DMSO (400 mL) was treated with KOH (36.0 g, 641.60 mmol, 4.5 eq), and the contents became a clear-yellow solution after 20-30 min. After 90 min, the solution was treated with 2-(2-bromoethoxy)terahydropyran (36.0 g, 172.18 mmol, 1.2 eq). The reaction was deemed complete after 4 h by LCMS data, so the contents were diluted with ethyl acetate (800 mL) and washed with brine (3×800 mL). The organics were dried over sodium sulfate and concentrated to an oil with an approximate 8:1 ratio of regioisomers and the major isomer is the desired one. The oil was redissolved in methanol (400 mL) and treated with p-toluenesulfonic acid monohydrate (32.11 g, 168.80 mmol, 1.5 eq). The contents were stirred at room temp for 20 min, poured into ethyl acetate (500 mL) and washed with aqueous potassium carbonate (400 mL), followed by brine (2×400 mL). The organics were dried over sodium sulfate and concentrated to a colorless oil that was further dried under vacuum for 60 min. The resultant, thick oil was suspended in diethyl ether (200 mL) and rolled in an ice-water-salt bath for 90 min. A white solid precipitated, which was filtered and dried under vacuum for 30 min to give the title compound (25.15 g, 67.20 mmol, 62%, >96% by NMR and LCMS data).

reactant | tert-butyl 4-(4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate | 109.02 mmol, 36.0 g | BrC=1N=C(NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20BrN3O2
reactant | KOH | 641.60 mmol, 36.0 g, 4.5 eq | [OH-].[K+]
reactant | 2-(2-bromoethoxy)terahydropyran | 172.18 mmol, 36.0 g, 1.2 eq | BrCCOC1OCCCC1 | C7H13BrO2
reactant | p-toluenesulfonic acid monohydrate | 168.80 mmol, 32.11 g, 1.5 eq | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | DMSO | 400 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(4-bromo-1-(2-hydroxyethyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | 67.20 mmol, 25.15 g | BrC=1N=C(N(C1)CCO)C1CCN(CC1)C(=O)OC(C)(C)C | C15H24BrN3O3
